US06603005B2
A mixture of 0.4 g of ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate, 0.23 g of 2-chloroethylthiocyclohexane, 0.18 g of potassium iodide and 0.74 g of potassium carbonate in 15 cm3 of acetonitrile was stirred for 18 hours at a temperature in the region of 70° C. After cooling to about 20° C., the reaction mixture was concentrated to dryness under reduced pressure (5 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatography under atmospheric pressure, on a cartridge of silica gel (Bond Elut; particle size 70-200μ; mass 12 g), eluting with a mixture of ethyl acetate/40-60° C. petroleum ether (8/2 by volume). The fractions containing the product were combined and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 0.32 g of ethyl 1-(2-cyclohexylethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate was obtained.

reactant | ethyl 4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 0.4 g | FC=1C=NC2=CC=C(C=C2C1CCCC1(CCNCC1)C(=O)OCC)OC | C21H27FN2O3
reactant | 2-chloroethylthiocyclohexane | 0.23 g | ClCCSC1CCCCC1 | C8H15ClS
reactant | potassium iodide | 0.18 g | [I-].[K+]
reactant | potassium carbonate | 0.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | ethyl 1-(2-cyclohexylethyl)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]piperidine-4-carboxylate | 0.32 g | C1(CCCCC1)CCN1CCC(CC1)(C(=O)OCC)CCCC1=C(C=NC2=CC=C(C=C12)OC)F | C29H41FN2O3
